US04120969
1-Isopropyl-3,3-diphenyl-4-[2-(4-hydroxy-4-phenylpiperidinyl)ethyl]-2-pyrrolidinone Hydrochloride
A stirred mixture of 26.5 g. (0.078 mole) of 4-(2-chloroethyl)-1-isopropyl-3,3-diphenyl-2-pyrrolidinone, 14 g. (0.078 mole) of 4-phenyl-4-piperidinol and 27 g. of potassium carbonate was refluxed for 18 hrs. The mixture was cooled, filtered and the filtrate was evaporated to an oil. The crude product was dissolved in ether and treated with ethereal hydrogen chloride. After recrystallization from isopropanol the product melted at 130°-132° C. (31.5 g.; 77%).

reactant | 4-(2-chloroethyl)-1-isopropyl-3,3-diphenyl-2-pyrrolidinone | 0.078 mole | ClCCC1C(C(N(C1)C(C)C)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H24ClNO
reactant | 4-phenyl-4-piperidinol | 0.078 mole | C1(=CC=CC=C1)C1(CCNCC1)O | C11H15NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 1-Isopropyl-3,3-diphenyl-4-[2-(4-hydroxy-4-phenylpiperidinyl)ethyl]-2-pyrrolidinone Hydrochloride | Cl.C(C)(C)N1C(C(C(C1)CCN1CCC(CC1)(C1=CC=CC=C1)O)(C1=CC=CC=C1)C1=CC=CC=C1)=O | InChI=1S/C32H38N2O2.ClH/c1-25(2)34-24-29(18-21-33-22-19-31(36,20-23-33)26-12-6-3-7-13-26)32(30(34)35,27-14-8-4-9-15-27)28-16-10-5-11-17-28;/h3-17,25,29,36H,18-24H2,1-2H3;1H
